US03937833
A solution of 9.0 g (0.019 mole) 2,7-bis(4-piperidinobutyryl)fluorene, 7.54 g (0.0253 mole) sodium dichromate and 300 ml of glacial acetic acid is stirred and refluxed for 1 hour. The reaction mixture is evaporated to semi-dryness and made basic using concentrated ammonium hydroxide. The solid which precipitates is filtered, washed with water and chromatographed on alumina using chloroform as the eluant. The solvent is removed from the fraction collected, leaving a solid residue which is recrystallized three times from chloroform-acetone to yield 2,7-bis(4-piperidinobutyryl)fluoren-9-one, M.P. 168°-170°C.

reactant | 2,7-bis(4-piperidinobutyryl)fluorene | 0.019 mole, 9.0 g | N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCN1CCCCC1)=O | C31H40N2O2
reactant | sodium dichromate | 0.0253 mole, 7.54 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2,7-bis(4-piperidinobutyryl)fluoren-9-one | N1(CCCCC1)CCCC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(CCCN1CCCCC1)=O)=O | C31H38N2O3
